US07030265B2
Preparation of Di[(2E,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexenyl)-2,4,6,8-nonatetraenyl](2S)-2-[(tert-butoxycarbonyl)amino]butanedioate
N-Boc aspartic acid (1.2 mg), methylene chloride 20 ml and minimum amount of dimethylformamide (DMF) were added to nitrogen filled, three mouth- round bottom flask and melted. The reaction mixture was cooled down into 0° C., 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride [EDCI](1.36 g)were added slowly, and stirred for approximately 30 minutes. Retinol (0.51 g) was added into the reaction mixture, small amount of N,N′-dimethylaminopyridine (DMAP) were added immediately, and stirred for approximately 1˜3 hours. After the reaction was finished, eluent were removed under the low pressure, the residues were melted with ethyl acetate and washed several times with water and Brine. Organic phase were dried with anhydrous MgSO4, concentrated under low pressure and separated with column chromatography.

reactant | N-Boc aspartic acid | 1.2 mg | C(=O)(OC(C)(C)C)N[C@@H](CC(=O)O)C(=O)O | C9H15NO6
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.36 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Retinol | 0.51 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/CO)/C)/C | C20H30O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Di[(2E,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexenyl)-2,4,6,8-nonatetraenyl](2S)-2-[(tert-butoxycarbonyl)amino]butanedioate | C\C(=C/COC([C@H](CC(=O)OC\C=C(\C=C\C=C(\C=C\C1=C(CCCC1(C)C)C)/C)/C)NC(=O)OC(C)(C)C)=O)\C=C\C=C(\C=C\C1=C(CCCC1(C)C)C)/C | C49H71NO6
